US06730707B2
N-[2-(5-Methoxycarbonylamino-1H-indol-3-yl)-ethyl]-succinamic Acid
Triethylamine (12 mmol), DMAP (0.6 mmol), and succinic anhydride (9 mmol) are added to a solution of 5-nitrotryptamine (6 mmol) in dichloromethane (25 mL). The mixture is stirred 4 h, the solvent removed in vacuo, and the residue chromatographed on silica gel using 10% methanol-chloroform with 1% acetic acid as eluent. The product is then hydrogenated and transformed to the carbamic acid methyl ester as in the previous examples. Purified product is obtained by reverse-phase HPLC as above.

reactant | Triethylamine | 12 mmol | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | 9 mmol | C1(CCC(=O)O1)=O | C4H4O3
reactant | 5-nitrotryptamine | 6 mmol | [N+](=O)([O-])C1=CC=C2NC=C(CCN)C2=C1 | C10H11N3O2
catalyst | DMAP | 0.6 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-[2-(5-Methoxycarbonylamino-1H-indol-3-yl)-ethyl]-succinamic Acid | COC(=O)NC=1C=C2C(=CNC2=CC1)CCNC(CCC(=O)O)=O | C16H19N3O5
